US09102654B2
Alternate Synthetic Route to: Methyl-3-((3,3,3-trifluoropropyl)thio)propionate
A 500 mL three-neck round bottomed flask was charged with toluene (200 mL) and cooled to <−50° C. with a dry ice/acetone bath. 3,3,3-Trifluoropropene (21.8 g, 227 mmol) was condensed into the reaction by bubbling the gas through the cooled solvent and the ice bath was removed. Methyl 3-mercaptopropionate (26.8 g, 223 mmol) and 2,2-dimethoxy-2-phenylacetophenone (2.72 g, 10.61 mmol) were added and a UVP lamp (4 watt) that was placed within 2 centimeters of the glass wall was turned on to the long wave function (366 nanometers). The reaction reached 35° C. due to heat from the lamp. After 4 hours, all of the trifluoropropene was either consumed or boiled out of the reaction. The light was turned off and the reaction stirred at room temperature overnight. After 22 hours, more trifluoropropene (3.1 g) was bubbled through the mixture at room temperature and the light was turned on for an additional 2 hours. The reaction had converted 93% so no more trifluoropropene was added. The light was turned off and the mixture concentrated on the rotovap (40° C., 20 torr) giving a yellow liquid (45.7 g, 21.3:1 linear:branched isomer, 75 wt % pure linear isomer determined by a GC internal standard assay, 34.3 g active, 71% in pot yield).

reactant | 3,3,3-Trifluoropropene | 227 mmol, 21.8 g | FC(C=C)(F)F | C3H3F3
reactant | Methyl 3-mercaptopropionate | 223 mmol, 26.8 g | SCCC(=O)OC | C4H8O2S
reactant | 2,2-dimethoxy-2-phenylacetophenone | 10.61 mmol, 2.72 g | COC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OC | C16H16O3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl-3-((3,3,3-trifluoropropyl)thio)propionate | COC(CCSCCC(F)(F)F)=O | C7H11F3O2S
